US07459562B2
F) tert-Butyl 4-(4-amino-2-fluorophenoxy)-3-ethylpyridin-2-ylcarbamate
A solution of tert-butyl 4-(2-fluoro-4-nitrophenoxy)-3-vinylpyridin-2-ylcarbamate (48 mg, 0.13 mmol) was hydrogenated over 10% palladium-carbon (10 mg) and Pt2O (5 mg) for 1.5 h using H2 from a rubber balloon. Themixture was filtered through Celite® and the filtrate concentrated in vacuo to give the title compound (40 mg, 89%) as a pale yellow solid. 1H NMR (DMSO-d6) δ 9.04 (s, 1H), 8.03 (d, 1H, J=5.6 Hz), 6.95 (dd, 1H, J=8.6, 8.6 Hz), 6.50 (dd, 1H, J=2.5, 13.2 Hz), 6.41 (dd, 1H, J=2.5, 9.4 Hz), 6.36 (d, 1H, J=5.6 Hz), 5.44 (s, 2H), 2.67-2.62 (m, 2H), 1.43 (s, 9H), 1.11 (t, 3H, J=7.1 Hz); MS(ESI+): m/z 348.22 (M+H)+.

reactant | tert-butyl 4-(2-fluoro-4-nitrophenoxy)-3-vinylpyridin-2-ylcarbamate | 0.13 mmol, 48 mg | FC1=C(OC2=C(C(=NC=C2)NC(OC(C)(C)C)=O)C=C)C=CC(=C1)[N+](=O)[O-] | C18H18FN3O5
catalyst | palladium-carbon | 10 mg | [C].[Pd]
product | tert-Butyl 4-(4-amino-2-fluorophenoxy)-3-ethylpyridin-2-ylcarbamate | 40 mg, 89% | NC1=CC(=C(OC2=C(C(=NC=C2)NC(OC(C)(C)C)=O)CC)C=C1)F | C18H22FN3O3
